US06143779
Synthesis of methyl-2-methoxy-4-[(3-oxo-2.3-dihvdrobenzo[b]furan-2-ylidene)methyl]benzoate
2H-benzofuran-3-one 1 g and vanillin acetate 2.17 g were dissolved in dichloromethane 25 ml, aluminum oxide (manufactured by Merck Co., cat. No. 1076) 24.3 g was added, and the mixture was stirred for 1.5 hours, and aluminum oxide was filtered to obtain a reaction solution. Aluminum oxide was washed with dichloromethane 100 ml three times. This solution and the reaction solution were combined and concentrated at a temperature of 40° C. under reduced pressure. The concentrate was dissolved in methanol 40 ml, the solution was allowed to stand at room temperature for two hours. The precipitated crystals were filtered, and the resulting crystals were dried at a temperature of 60° C. for two hours under reduced pressure to obtain the desired compound 1.44 g.

reactant | 2H-benzofuran-3-one | 1 g | O1CC(C2=C1C=CC=C2)=O | C8H6O2
reactant | vanillin acetate | 2.17 g | C(C)(=O)O.O=CC1=CC(OC)=C(O)C=C1
reactant | aluminum oxide | [O-2].[Al+3].[O-2].[O-2].[Al+3]
reactant | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | methyl-2-methoxy-4-[(3-oxo-2.3-dihvdrobenzo[b]furan-2-ylidene)methyl]benzoate | 1.44 g | COC(C1=C(C=C(C=C1)C=C1C(C2=C(O1)C=CC=C2)=O)OC)=O | C18H14O5
